US07368578B2
A mixture of {4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-2-(3-nitrophenyl)-1,3-oxazole (650 mg), iron (reduced) (284 mg), calcium chloride (11 mg) and 80% ethanol (8 mL) was heated under reflux for 2 hrs. Insoluble materials were removed by celite filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate to give {3-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}amine as yellow amorphous form (150 mg, yield 38%).

reactant | 4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-2-(3-nitrophenyl)-1,3-oxazole | 650 mg | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC(=CC=C2)[N+](=O)[O-])C=C1)OC | C35H31N5O6S
reactant | calcium chloride | 11 mg | [Cl-].[Ca+2].[Cl-]
catalyst | iron | 284 mg | [Fe] | Fe
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | {3-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}amine | yield 38% | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)N)C=C1)OC | C35H33N5O4S
